US07700641B2
C. Synthesis of 3-(5-bromo-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 14C, and making non-critical variations to replace 3-(5-fluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 3-(5-bromo-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained: MS (ES+) m/z 386 (M−17), 388 (M−17), 426 (M+23), 428 (M+23).

reactant | 3-(5-fluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | FC=1C=CC(=C(C1)C1C(N(C2=CC=CC=C12)CCCCC)=O)O | C19H20FNO2
reactant | 3-(5-bromo-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1C(N(C2=CC=CC=C12)CCCCC)=O)O | C19H20BrNO2
product | 3-(5-bromo-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)CO)O | C20H22BrNO3
